US07521447B2
Step E: 1-(5-tert-Butyl-isoxazol-3-yl)-3-[5-fluoro-2-(1-isobutyl-1H-indazol-5-yloxy)-benzyl]-urea:
To a cooled (0° C.) solution of 5-fluoro-2-(1-isobutyl-1H-indazol-5-yloxy)-benzylamine (0.364 g, 1.04 mmol) and DIEA (0.5 mL, 2.08 mmol) in dichloromethane (10 mL) was added triphosgene (0.131 g, 0.374 mmol). The mixture was stirred at 0° C. for 1 hour and then stirred at room temperature for 18 hours under N2 atmosphere. The reaction mixture was concentrated under reduced pressure and suspended in dichloromethane (10 mL) making a 0.123 M solution. 0.4 mL of this solution (0.015 g, 0.048 mmol) was treated with 5-tert-butyl-isoxazol-3-ylamine (0.008 g, 0.053 mmol). The product was obtained in 44% yield. MS (APCI+) m/z 480 (M+1) detected.

reactant | 5-fluoro-2-(1-isobutyl-1H-indazol-5-yloxy)-benzylamine | 1.04 mmol, 0.364 g | FC=1C=CC(=C(CN)C1)OC=1C=C2C=NN(C2=CC1)CC(C)C | C18H20FN3O
reactant | DIEA | 2.08 mmol, 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | triphosgene | 0.374 mmol, 0.131 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 5-tert-butyl-isoxazol-3-ylamine | 0.053 mmol, 0.008 g | C(C)(C)(C)C1=CC(=NO1)N | C7H12N2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(5-tert-Butyl-isoxazol-3-yl)-3-[5-fluoro-2-(1-isobutyl-1H-indazol-5-yloxy)-benzyl]-urea | 44% yield | C(C)(C)(C)C1=CC(=NO1)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CC(C)C | C26H30FN5O3
